US08466191B2
ethyl 3-amino-3-(3-methoxy-4-ethoxy-phenyl)propionate
The title compound was prepared following the method for preparing Intermediate 26 except that 3-amino-3-(3-ethoxy-4-methoxy-phenyl)propionic acid was substituted with 3-amino-3-(3-methoxy-4-ethoxy-phenyl)propionic acid. MS (m/z): 268 [M+1]+.

reactant | 3-amino-3-(3-ethoxy-4-methoxy-phenyl)propionic acid | NC(CC(=O)O)C1=CC(=C(C=C1)OC)OCC | C12H17NO4
reactant | 3-amino-3-(3-methoxy-4-ethoxy-phenyl)propionic acid | NC(CC(=O)O)C1=CC(=C(C=C1)OCC)OC | C12H17NO4
product | ethyl 3-amino-3-(3-methoxy-4-ethoxy-phenyl)propionate | NC(CC(=O)OCC)C1=CC(=C(C=C1)OCC)OC | C14H21NO4
